US07157488B2
3-(2-Nitrovinyl-5-cyano-1H-indole
Combine 3-formyl-5-cyano-1H-indole (10.60 g, 63.32 mmol) and a solution of ammonium acetate (10.60 g) in nitromethane (660 ml). Heat to 90° C. After 2 hours, cool to ambient temperature to give a precipitate. Collect the precipitate by filtration, wash with 1:1 MeOH/water (500 ml), and dry to give the title compound: mp 247–251° C. MS (ACPI): m/e 214.0 (M+1).

reactant | 3-formyl-5-cyano-1H-indole | 63.32 mmol, 10.60 g | C(=O)C1=CNC2=CC=C(C=C12)C#N | C10H6N2O
reactant | ammonium acetate | 10.60 g | C(C)(=O)[O-].[NH4+]
reactant | nitromethane | 660 ml | [N+](=O)([O-])C | CH3NO2
product | 2-Nitrovinyl-5-cyano-1H-indole | [N+](=O)([O-])C=CN1C=CC2=CC(=CC=C12)C#N | C11H7N3O2
